US07635715B2
Step D: Preparation of N-((4-Hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (270 mg, 782 μmol) was dissolved in TFA (2 mL) at ambient temperature. The mixture was then stirred for 30 minutes. The reaction mixture was concentrated, suspended in hexanes, filtered, washed with hexanes, and dried in a vacuum oven to give the title compound (215 mg) as a white solid. MS (m/z)=290 (M+H)+. Calculated for C15H15NO5 289.1.

reactant | 1,1-Dimethylethyl N-((4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 782 μmol, 270 mg | OC1=C(C(C(C2=CC=CC=C12)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C | C19H23NO5
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((4-Hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 215 mg | OC1=C(C(C(C2=CC=CC=C12)(C)C)=O)C(=O)NCC(=O)O | C15H15NO5
